US07816526B2
Synthesis of 6-chloro-2,8-dimethylimidazo[1,2-b]pyridazine
3-Amino-6-chloro-4-methylpyridazine (5.50 g, 38.3 mmol) and bromoacetone (6.90 g, 40.0 mmol) were heated in acetonitrile (50.0 ml) for 8 hours under reflux. The reaction solution was concentrated under reduced pressure, and water (100 ml) was added to the residues which were then adjusted to pH 9 with 20% aqueous sodium hydroxide and extracted twice with ethyl acetate. The extracts were combined, dried over anhydrous magnesium sulfate and concentrated, and the residues were purified by silica gel column chromatography (ethyl acetate:chloroform=1:2), to give the title compound as white crystals. The yield was 3.80 g (54.6%).

reactant | 3-Amino-6-chloro-4-methylpyridazine | 38.3 mmol, 5.50 g | NC=1N=NC(=CC1C)Cl | C5H6ClN3
reactant | bromoacetone | 40.0 mmol, 6.90 g | BrCC(C)=O | C3H5BrO
solvent | acetonitrile | 50.0 ml | C(C)#N | C2H3N
product | 6-chloro-2,8-dimethylimidazo[1,2-b]pyridazine | ClC=1C=C(C=2N(N1)C=C(N2)C)C | C8H8ClN3
